US07125896B2
b) 1-[2-(2-Bromo-5-pyrrolidin-1-ylphenoxy)ethyl]piperidine
4-Bromo-3-(2-{piperidin-1-yl}ethoxy)aniline (2.99 g), 1,4-dibromobutane (1.2 ml), diisopropylethylamine (4.18 ml) and toluene (15 ml) were stirred and heated at 110° C. for 18 h. When cool, water (20 ml) was added, and the mixture was extracted with ethyl acetate (2×30 ml). The combined organic phase was washed with water, brine, dried (MgSO4) and evaporated to give the product as an orange-brown oil (2.25 g).

reactant | 4-Bromo-3-(2-{piperidin-1-yl}ethoxy)aniline | 2.99 g | BrC1=C(C=C(N)C=C1)OCCN1CCCCC1 | C13H19BrN2O
reactant | 1,4-dibromobutane | 1.2 ml | BrCCCCBr | C4H8Br2
reactant | diisopropylethylamine | 4.18 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 ml | O | H2O
product | 1-[2-(2-Bromo-5-pyrrolidin-1-ylphenoxy)ethyl]piperidine | 2.25 g | BrC1=C(OCCN2CCCCC2)C=C(C=C1)N1CCCC1 | C17H25BrN2O
